US04521422
A mixture of 0.10 mole of 3-acetylpyridine and 0.10 mole of N,N-diethylformamide dimethylacetal in 100 ml of dioxane was refluxed for 10 hours. The solvent was removed, giving 3-diethylamino-1-(3-pyridinyl)-2-propen-1-one.

reactant | 3-acetylpyridine | 0.10 mole | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | N,N-diethylformamide dimethylacetal | 0.10 mole | COC(N(CC)CC)OC | C7H17NO2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-diethylamino-1-(3-pyridinyl)-2-propen-1-one | C(C)N(C=CC(=O)C=1C=NC=CC1)CC | C12H16N2O
